US03977860
N-phosphonomethylglycine (10 g.) was placed in a small beaker and covered with concentrated hydrochloric acid (approximately 5 ml.). After the exothermic reaction has subsided, the mixture was allowed to stand about 10 to 15 minutes. The crystalled solid was washed with tetrahydrofuran and then air-dried to yield an essentially quantitative yield of N-phosphonomethylglycine hemihydrochloride hemihydrate (m.p. greater than 300°C.).

reactant | N-phosphonomethylglycine | 10 g | P(=O)(O)(O)CNCC(=O)O | C3H8NO5P
reactant | hydrochloric acid | approximately 5 ml | Cl | ClH
product | N-phosphonomethylglycine hemihydrochloride hemihydrate | quantitative yield | O.Cl.P(=O)(O)(O)CNCC(=O)O.P(=O)(O)(O)CNCC(=O)O | InChI=1S/2C3H8NO5P.ClH.H2O/c2*5-3(6)1-4-2-10(7,8)9;;/h2*4H,1-2H2,(H,5,6)(H2,7,8,9);1H;1H2
